US07981903B2
A mixture of 5-chloro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (500 mg, 1.084 mmol) and 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (270 mg, 1.084 mmol) in THF (50 mL) was heated at 80° C. for 7.5 h. More 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (270 mg, 1.084 mmol) was added and the reaction mixture was heated at 80° C. for 1 h. The resulting mixture was diluted to a total of 70 mL of which 40 mL was diluted with a 27% aqueous NH4OH solution (100 mL), maintained at rt for 3 days, and diluted with EtOAc (200 mL) and washed with a saturated NaCl solution (4×125 mL). The organic layer was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2, followed by trituration using a mixture of CH2Cl2 and Et2O to obtain 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide as a white solid (101 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.24 (s, 6H), 2.35 (s, 3H), 3.14-3.28 (m, 4H), 3.74 (s, 3H), 4.24 (t, J=8.33 Hz, 2H), 6.47 (d, J=3.85 Hz, 1H), 6.91-7.03 (m, 1H), 7.08 (s, 1H), 7.24 (t, J=7.60 Hz, 1H), 7.29-7.42 (m, 3H), 7.70-7.87 (m, 2H), 7.98 (d, J=8.24 Hz, 2H), 8.23 (s, 1H), 8.31 (br s, 1H), 8.37 (s, 1H), 8.70 (d, J=8.42 Hz, 1H), 12.22 (s, 1H); ESIMS (M+H)+=655.37.

reactant | 5-chloro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 1.084 mmol, 500 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC=C4C(N31)=O)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 1.084 mmol, 270 mg | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
reactant | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 1.084 mmol, 270 mg | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
reactant | NH4OH | 100 mL | [NH4+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 101 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=CC=C2)OC)C | C33H34N8O5S
